US08106064B2
3-(7-Hydroxy-2,4-dimethoxy-5,5-dimethyl-5,7-dihydro-furo[3,4-d]pyrimidin-7-yl)-5-methyl-benzonitrile (176):
3-Cyanomethyl-5-methyl-benzonitrile (0.067 g, 0.432 mmol) and 2-(4-Chloro-2,6-dimethoxy-pyrimidin-5-yl)-propan-2-ol (0.100 g, 0.432 mmol) was dissolved in DMF (1.5 mL) and cooled to 0° C. 60% Sodium hydride (0.035 g, 0.64 mmol) was added portionwise and the reaction was stirred at 0° C. for 1 h, then rt overnight. The reaction was quenched with 1N HCl, extracted with ethyl acetate and washed with saturated ammonium chloride solution. Organic layer was dried (MgSO4) and concentrated and purified by flash column chromatography (silica gel, 0 to 40% ethyl acetate/hexane) to give a white solid (0.027 g, 18%). 1H NMR (300 MHz, CDCl3): δ 7.80 (s, 2H), 7.39 (s, 1H), 4.01 (s, 3H), 3.93 (s, 3H), 2.37 (s, 3H), 1.66 (s, 3H), 1.63 (s, 3H). Mass spectrum: 342.3 (M+H)+.

reactant | 3-Cyanomethyl-5-methyl-benzonitrile | 0.432 mmol, 0.067 g | C(#N)CC=1C=C(C#N)C=C(C1)C | C10H8N2
reactant | 2-(4-Chloro-2,6-dimethoxy-pyrimidin-5-yl)-propan-2-ol | 0.432 mmol, 0.100 g | ClC1=NC(=NC(=C1C(C)(C)O)OC)OC | C9H13ClN2O3
reactant | Sodium hydride | 0.64 mmol, 0.035 g | [H-].[Na+]
reactant | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | 3-(7-Hydroxy-2,4-dimethoxy-5,5-dimethyl-5,7-dihydro-furo[3,4-d]pyrimidin-7-yl)-5-methyl-benzonitrile | 0.027 g, 18% | OC1(OC(C2=C1N=C(N=C2OC)OC)(C)C)C=2C=C(C#N)C=C(C2)C | C18H19N3O4
